US03939267
The mixture of 2.2 g of 4-(4-acetamidophenylmercapto)-3-benzylamino-5-sulfamoylbenzoic acid and 22 ml of 2N aqueous sodium hydroxide is refluxed for one hour under nitrogen. After cooling it is filtered, the filtrate acidified with glacial acetic acid to pH = 4. The precipitate formed is filtered off and recrystallized from 50% aqueous ethanol, to yield the 4-(4-aminophenylmercapto)-3-benzylamino-5-sulfamoylbenzoic acid melting at 254°-256°.

reactant | 4-(4-acetamidophenylmercapto)-3-benzylamino-5-sulfamoylbenzoic acid | 2.2 g | C(C)(=O)NC1=CC=C(C=C1)SC1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)NCC1=CC=CC=C1 | C22H21N3O5S2
reactant | sodium hydroxide | 2N, 22 ml | [OH-].[Na+]
product | 4-(4-aminophenylmercapto)-3-benzylamino-5-sulfamoylbenzoic acid | NC1=CC=C(C=C1)SC1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)NCC1=CC=CC=C1 | C20H19N3O4S2
